US07674789B2
227a) 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide
To a stirring suspension of Oxone (817.96 g, 1.33 mole, 3 eq) in water (2142 mL, 10 vol) was added 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (214.21 g 0.443 mole, 1 eq) suspended in acetonitrile (4284 mL). The resulting mixture was stirred at ambient temperature overnight. The mixture was then filtered and the residue stirred sequentially with 5% sodium metabisulfite (2×3000 mL) and water (1×300 mL). The filtrate from the reaction mixture was then diluted with water (2142 mL, 10 vol). The solid that formed was then collected by filtration. The solid was washed well with water then dried at the pump to yield the title compound. LC-MS m/z 516 (M+H)+, 2.77 min (ret time). It was used without further purification although corresponding sulfoxide was present (about 10%).

reactant | Oxone | 1.33 mole, 817.96 g, 3 eq | OOS(=O)[O-].[K+]
reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.443 mole, 214.21 g, 1 eq | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)SC)=O | C24H23F2N5O2S
reactant | acetonitrile | 4284 mL | C(C)#N | C2H3N
solvent | water | 2142 mL | O | H2O
product | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)(=O)C)=O | C24H23F2N5O4S
